US09227995B2
O-Propynyl L-Seryl Glycine Methyl Ester 29
N-tert-butoxycarbonyl-O-propargyl L-seryl glycine methyl ester (6.17 g, 19.6 mmol) was treated with a 50% (v/v) solution of TFA in CH2Cl2 (50 mL). The reaction mixture was stirred for 1 h 20 min before the solvent and bulk of excess TFA was evaporated. The residue was dissolved in H2O (50 mL) and the solution washed with Et2O (3×25 mL). The pH was regulated to pH 10-11 and the solution extracted with CH2Cl2 (3×100 mL). The combined organic extracts were dried with anhydrous MgSO4 and the solvent evaporated affording a yellowish liquid (2.75 g, 65%); δH (300 MHz; d6-DMSO) 8.33 (1H, t/dd, J difficult to measure, NH), 4.14 (2H, d, J 2, CH2CCH), 3.87 (1H, s, CαHH(Gly)), 3.85 (1H, s, CαHH(Gly)), 3.63 (3H, s, OCH3), 3.58 (1H, dd, J 9 and 5, CHH), 3.49 (1H, dd, J 9 and 6, CHH), 3.41 (1H, dd, J 6 and 5, CαH(propSer)), 3.30 (1H, t, J 2, CCH), 1.86 (2H, br s, NH2); δC (75 MHz; d6-DMSO) 173.1, 170.2, 80.1, 77.1, 72.1, 57.6, 54.8, 54.3, 51.6, 40.5

reactant | N-tert-butoxycarbonyl-O-propargyl L-seryl glycine methyl ester | 19.6 mmol, 6.17 g | COC(CNC([C@@H](NC(=O)OC(C)(C)C)COCC#C)=O)=O | C14H22N2O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | O-Propynyl L-Seryl Glycine Methyl Ester | 2.75 g, 65% | COC(CNC([C@@H](N)COC#CC)=O)=O | C9H14N2O4
